US04282158
2 parts of [(tetrahydro-2H-pyran-2-ylidene)methyl] triphenylphosphonium chloride and 1 part of furfural were combined in 45 parts of xylene. This was maintained under a nitrogen atmosphere and was refluxed for about 24 hours to give a black solution. After cooling the reaction mixture to room temperature xylene was removed from this solution at a temperature of about 40°-60° C. under reduced pressure, leaving a product mixture. This mixture was seprated chromatographically on a silica column using as the elution solvent a solution of 20 percent by volume of ethyl acetate in Skelly B, to yield 1-(2-furyl)7-chloro-1-hepten-3-one which, after a recrystallization from n-pentane, melted at about 50°-52° C.

reactant | [(tetrahydro-2H-pyran-2-ylidene)methyl] triphenylphosphonium chloride | [Cl-].O1C(CCCC1)=C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | furfural | C(C1=CC=CO1)=O | C5H4O2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-furyl)7-chloro-1-hepten-3-one | O1C(=CC=C1)C=CC(CCCCCl)=O | C11H13ClO2
